US07947706B2
To a solution of 1 g of ethyl 3-bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylate in 100 mL of dioxane are added 773 mg of 4-aminophenylboronic acid hydrochloride and 1.1 g of potassium fluoride in 9 mL of water. The reaction mixture is stirred under an argon atmosphere for 15 minutes. 425 mg of tetrakis(triphenylphosphine)palladium(0) and 630 μL of triethylamine are added. The reaction mixture is stirred for 17 hours at reflux. After treating with carbon black and then filtering through Celite®, the filtrate is concentrated under reduced pressure. The residue is purified by flash chromatography on a column of silica (60; 35-70 μM), eluting with a mixture of dichloromethane, methanol and acetonitrile (90/5/5 by volume). 600 mg of ethyl 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate are obtained, the characteristics of which are as follows:

reactant | ethyl 3-bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 1 g | BrC1=C(NC2=CN=CC=C21)C(=O)OCC | C10H9BrN2O2
reactant | 4-aminophenylboronic acid hydrochloride | 773 mg | Cl.NC1=CC=C(C=C1)B(O)O
reactant | potassium fluoride | 1.1 g | [F-].[K+]
reactant | carbon black | C | CH4
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 9 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 425 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | triethylamine | 630 μL | C(C)N(CC)CC | C6H15N
product | ethyl 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 600 mg | NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)OCC | C16H15N3O2
